US05821240
(31) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(1-pyrrolidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-hydroxy-1-piperidinyl]pyrimido[5,4-d]pyrimidine by oxidation with Dess-Martin reagent and subsequent reductive amination with pyrrolidine and sodium cyanoborohydride. Melting point: 202°-204° C.; Rf : 0.58 (alumina; petroleum ether/ethyl acetate/methanol=10:10:1)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-hydroxy-1-piperidinyl]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)N2CCC(CC2)O | C17H16ClFN6O
reactant | Dess-Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(1-pyrrolidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)N2CCC(CC2)N2CCCC2 | C21H23ClFN7
